US06458781B1
Step D. 2-[4,4-Bis-(4-fluoro-phenyl)-butyl]-isoindole-1,3-dione
A suspension consisting of 1,1′-(4-bromobutylidene)bis[4-fluorobenzene] (25 g, 77 mmol) and potassium phthalimide (17 g, 92 mmol) in 300 mL DMF was stirred at 50° C. for 16 hours, cooled to 25° C., and poured into 900 mL of cold H2O. The mixture was extracted with ethyl acetate (3×300 mL), and the combined extracts were washed with H2O (2×1 L), followed by brine (700 mL), then dried over anhydrous sodium sulfate. Evaporation of solvent in vacuo afforded 28.6 g of a golden oil, which was triturated with 250 mL 2,2,4-trimethylpentane containing 5% 2-propanol, and the solid thus obtained was collected by filtration and dried at 50° C. in vacuo, to give 28.7 g (97%) of titled compound as a white powder; mp 69-70° C. APCI-MS m/z 391.1 (M−).

reactant | 1,1′-(4-bromobutylidene)bis[4-fluorobenzene] | 77 mmol, 25 g | BrCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15BrF2
reactant | potassium phthalimide | 92 mmol, 17 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | H2O | 900 mL | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 2-[4,4-Bis-(4-fluoro-phenyl)-butyl]-isoindole-1,3-dione | 28.6 g | FC1=CC=C(C=C1)C(CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | C24H19F2NO2
